US05082945
Benzyltriethylammonium chloride (0.32 g, 0.0014 mole) and a solution of NaOH (6.0 g, 0.15 mol) in water (20 cc) were added with stirring to a suspension of 5-amino-3-cyano-4-thiocyanato-1-(2,4,6-trichlorophenyl)-1H-pyrazole (16.2 g, 0.047 mol) in CHCl3 (180 cc). The resulting mixture was stirred under laboratory atmosphere, at ambient temperature, for 3.1 hours, at the end of which time a TLC of a reaction aliquot portion showed that the reaction was complete. The yellow-coloured solid product was separated off by filtration, was washed with water, and was then dissolved in ethyl acetate, the solution being subjected to an extraction with water (2×200 ml) and to a dehydration over MgSO4. A dehydration in a vacuum oven at a temperature of 70° to 75° C. for approximately 16 hours gave 4,4'-dithiobis[5-amino-3-cyano-1-(2,4,6-trichlorophenyl)-1H-pyrazole] (14.0 g, 93.5%) in the form of a yellow-coloured solid substance.

reactant | NaOH | 0.15 mol, 6.0 g | [OH-].[Na+]
reactant | 5-amino-3-cyano-4-thiocyanato-1-(2,4,6-trichlorophenyl)-1H-pyrazole | 0.047 mol, 16.2 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C#N)SC#N | C11H4Cl3N5S
catalyst | Benzyltriethylammonium chloride | 0.0014 mole, 0.32 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 20 cc | O | H2O
solvent | CHCl3 | 180 cc | C(Cl)(Cl)Cl | CHCl3
product | 4,4'-dithiobis[5-amino-3-cyano-1-(2,4,6-trichlorophenyl)-1H-pyrazole] | 14.0 g, 93.5% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C#N)SSC=1C(=NN(C1N)C1=C(C=C(C=C1Cl)Cl)Cl)C#N | C20H8Cl6N8S2
